US08703808B2
To a solution of 5-chloroindole (1.0 g, 6.8 mmol, 1.0 eq.) in a mixture of acetic acid (2 mL) and water (1 mL) were added, at 0° C., formaldehyde (720 μL, 37% in H2O, 8.9 mmol, 1.3 eq) and dimethylamine (1.23 mL, 40% in H2O, 10.9 mmol, 1.7 eq). The mixture was stirred at room temperature for 6 hours and then, quenched with ice and 5 M aqueous sodium hydroxide. The mixture was extracted with dichloromethane and then, the organic layer was dried over MgSO4 and partially evaporated. To the solution gramine in dichloromethane (20 mL) were added, under an argon atmosphere, anhydrous toluene (40 mL) and methyl iodide (824 μL, 13.2 mmol, 2.0 eq.). The mixture was stirred at room temperature for 12 hours and then, concentrated under reduced pressure. To the residue taken up in anhydrous THF (60 mL) were added, under an argon atmosphere, TMSCN (1.25 mL, 9.9 mmol, 1.5 eq.) and TBAF (19.9 mL, 1M, 19.9 mmol, 3.0 eq.). The mixture was stirred at room temperature for 4 hours and then, concentrated under reduced pressure. The crude was taken up in ethyl acetate and the organic layer was washed with aqueous bicarbonate solution and then dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel pad filtration (eluent: EtOAc) to afford (5-chloro-1H-indol-3-yl)-acetonitrile as a beige solid (0.80 g, 63%).

reactant | 5-chloroindole | 6.8 mmol, 1.0 g, 1.0 eq. | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | formaldehyde | 8.9 mmol, 720 μL, 1.3 eq | C=O | CH2O
reactant | dimethylamine | 10.9 mmol, 1.23 mL, 1.7 eq | CNC | C2H7N
reactant | methyl iodide | 13.2 mmol, 824 μL, 2.0 eq. | CI | CH3I
reactant | TMSCN | 9.9 mmol, 1.25 mL, 1.5 eq. | [Si](C)(C)(C)C#N | C4H9NSi
reactant | TBAF | 19.9 mmol, 1M, 19.9 mL, 3.0 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (5-chloro-1H-indol-3-yl)-acetonitrile | 0.80 g, 63% | ClC=1C=C2C(=CNC2=CC1)CC#N | C10H7ClN2
